US05958910
50 mg of sodium hydride (60%) were added to a solution of 0.5 g of N-[4-(3,4-dihydroxy-5-nitro-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide in 5 ml of dimethylformamide. The mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water and extracted with ethyl acetate. The organic phase was dried with magnesium sulphate and concentrated. The residue was chromatographed on 60 g of Kieselgel 60 with methylene chloride/acetone/formic acid (90:10:2.5) as the eluent. The product-containing fractions were concentrated and, after boiling with 20 ml of diethyl ether, yielded 0.17 g of N-[4-(3-hydroxy-4-methoxy-5-nitro-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide as orange colored crystals.

reactant | sodium hydride | 50 mg | [H-].[Na+]
reactant | N-[4-(3,4-dihydroxy-5-nitro-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide | 0.5 g | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C | C16H13N3O6S2
reactant | water | O | H2O
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-[4-(3-hydroxy-4-methoxy-5-nitro-phenyl)-thiazol-2-yl]-4-methyl-benzenesulfonamide | 0.17 g | OC=1C=C(C=C(C1OC)[N+](=O)[O-])C=1N=C(SC1)NS(=O)(=O)C1=CC=C(C=C1)C | C17H15N3O6S2
